US06479487B1
1-(4-Trifluoromethylbenzyl)-4-piperidone is prepared from 4-piperidone and α′-chloro-α,α,α-trifluoro-p-xylene essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | α′-chloro-α,α,α-trifluoro-p-xylene | ClCC1=CC=C(C=C1)C(F)(F)F | C8H6ClF3
product | 1-(4-Trifluoromethylbenzyl)-4-piperidone | FC(C1=CC=C(CN2CCC(CC2)=O)C=C1)(F)F | C13H14F3NO
